US09422238B2
To a stirred suspension of sodium hydride (NaH, 60% dispersion in mineral oil; 48 mg, 2 mmol) in anhydrous dimethylformamide (5 ml) in an ice bath was added dropwise a solution of 5-bromo 1H indole (1.5 mmol) in anhydrous DMF (10 mL) over a period of 10 min at 0 C. After stirring for 10 min, 1-Bromooctane (1.8 mmol) was added drop wise over 5 min and reaction mixture was allowed to warm to RT and left with stirring for overnight. The reaction was quenched by pouring over ice and extracted twice with ethyl acetate (25 ml). The combined organic layers were washed with brine, dried (Na2SO4), filtered and concentrated under reduced pressure to obtain the crude residue. The crude material was purified by flash silica gel column chromatography with ethyl acetate and Hexane to get 5-bromo 1-octyl 1H-indole as an oil (Yield: 80 to 90%). Product was confirmed by NMR and LC-MS

reactant | sodium hydride | 2 mmol, 48 mg | [H-].[Na+]
reactant | 5-bromo 1H indole | 1.5 mmol | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | 1-Bromooctane | 1.8 mmol | BrCCCCCCCC | C8H17Br
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-bromo 1-octyl 1H-indole | Yield: 80 to 90% | BrC=1C=C2C=CN(C2=CC1)CCCCCCCC | C16H22BrN
